US04107182
2,3-Dihydro-7-methoxy-6-benzofuranol
A solution of 6-hydroxy-7-methoxy-3(2H)-benzofuranone, 233 mg. (1.29 mmole) in 5 ml. of acetic acid was hydrogenated for 4 hours at room temperature under 53 psi of H2 using 50 mg. of 10% Pd/C as catalyst. The mixture was then filtered, concentrated in vacuo to a residue which was chromatographed over silica gel (E. Merck 60) eluting with CHCl3 to yield, after evaporation, a colorless oil.

reactant | 6-hydroxy-7-methoxy-3(2H)-benzofuranone | OC1=C(C2=C(C(CO2)=O)C=C1)OC | C9H8O4
catalyst | Pd/C | [Pd] | Pd
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2,3-Dihydro-7-methoxy-6-benzofuranol | COC1=C(C=CC=2CCOC21)O | C9H10O3
